datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C1=CC=CC=C1)[O:21][S:20]C(F)(F)F.CC[O:82][C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[O:72]>>CC(C)(C1=CC=CC=C1)[O-:21].CC[O:82][C:71]([CH:10]([N+:11](=[O:12])[O-:62])[S:20]C(F)(F)F)=[O:72] 10,11=10,20;12=11,12;20,21=21"
"CC(C)[C@@H]1C[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10][C@@H]1C1=CC=CC=C1.C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2>>CC(C)[C@@H]1C[N+:12]2=[C:11]([N:10]([CH:20]3[C:21]4=[C:22](C=CC=C4)[N:23](C)[C:32]4=[C:31]3C=CC=C4)[C@@H]1C1=CC=CC=C1)[S:62]C1=C2C=CC=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"Br[C:12]1=[C:13]([NH2:14])[C:62](Br)=[CH:63][N:10]=[CH:11]1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N:10]1[CH:11]=[C:12](Br)[C:13](=[NH2+:14])[C:62](Br)=[CH:63]1)[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1=CC=C(/[C:10](=[C:11](\[O-:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([C:10](C2=CC=CC=C2)([C:11](=[O:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC[NH:10]CC.F[S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34]>>CC[NH+:10](CC)[CH2:20][CH-:21][S:32](F)(=[O:33])=[O:34] 10=20;20,21=21"
CC1=CC(C)=C([N:61]2[C-:10]=[N+:71](C3=C(C)C=C(C)C=C3C)[CH:63]=[CH:62]2)C(C)=C1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC1=CC(C)=C([N:61]2[C:10]([C:20]([C:31]3=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]3)([C:41]3=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]3)[C:51]3=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]3)=[N+:71](C3=C(C)C=C(C)C=C3C)[CH:63]=[CH:62]2)C(C)=C1 10=20
"CN(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2-:11][H:10])[CH:73]=[CH:74]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CN(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2:11])[CH:73]=[CH:74]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2>>C1=CC=C([CH:10]([C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:20]([C:31]2=[CH:32][C:33]3=[C:34](OCC3)[CH:35]=[CH:36]2)[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]2)C=C1 10,11=10,20;12=11,12"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.C[P+](C)(C)[Mo-3:11]1234(C#[O+])(C#[O+])([H:10])C5C1C2C3C54>>C1CC[N:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.C[P+](C)(C)[Mo-2:11]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20;20,21=21"
CO[C-:10]([C:61](=[O:62])[O:72]C)[C:81](=[O:82])[O:92]C.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]1)([C:61](=[O:62])[O:72]C)[C:81](=[O:82])[O:92]C 10=20
CC[O:72][P:61]([CH-:10][C:92](=[O:93])[O:103]CC)(=[O:62])[O:82]CC.C[CH+:20][C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28>>CC[O:72][P:61]([CH:10]([CH:20](C)[C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28)[C:92](=[O:93])[O:103]CC)(=[O:62])[O:82]CC 10=20
"CC(C)(C)[N:62]1[P:11]([H:10])[N:72](C(C)(C)C)[CH:64]=[CH:63]1.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1>>CC(C)(C)[N:62]1[P+:11][N:72](C(C)(C)C)[CH:64]=[CH:63]1.C[O:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1 10,11=10,20;20,21=21"
"C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C(F)(F)F)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1.C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C(F)(F)F)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([S:61](/[CH:10]=[C:11](\[O-:12])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)(=[O:62])=[O:72])C=C1.C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1>>C1=CC=C([S:61]([CH:10]([C:11](=[O:12])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:20]2([C:41]3=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]3)CC[CH:32]=[CH:31]2)(=[O:62])=[O:72])C=C1 10,11=10,20;12=11,12"
